US07968573B2
A mixture of 1.0 g of 2-amino-5-iodo-3-methylbenzoic acid, 0.45 g of copper cyanide and 10 ml of N,N-dimethylformamide was stirred at 150° C. for 9 hours. The reaction mixture was concentrated under reduced pressure. Into the residue, 20 ml of water and 2 ml of ethylenediamine were poured, and the mixture was stirred at room temperature for 1 hour. After the reaction mixture was filtered, the filtrate was adjusted to around pH 5 by an addition of concentrated hydrochloric acid, and then extracted with ethyl acetate three times. The combined organic layer was dried over sodium sulfate, and concentrated under reduced pressure to obtain 0.40 g of 2-amino-5-cyano-3-methylbenzoic acid of the formula:

reactant | 2-amino-5-iodo-3-methylbenzoic acid | 1.0 g | NC1=C(C(=O)O)C=C(C=C1C)I | C8H8INO2
reactant | copper cyanide | 0.45 g | [Cu](C#N)C#N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-amino-5-cyano-3-methylbenzoic acid | 0.40 g | NC1=C(C(=O)O)C=C(C=C1C)C#N | C9H8N2O2
